US07282501B2
Step D: 3-[4-[2-(2-Biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-(4-trifluoromethylphenoxy-methyl)-phenyl]-propionic acid
General procedure for parallel synthesis using, the DynaVac Carousel apparatus: A 50 mL glass tube with screw cap and nitrogen inlet was charged with 3-[4-hydroxy-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester (0.050 g, 0.146 mmol), toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethyl ester (0.078 g, 0.18 mmol), anhydrous DMF (0.5 mL), and then cesium carbonate (0.072 g, 0.22 mmol). The mixture was stirred at ambient temperature for 16 h. MS analysis of the reaction indicated formation of the ester intermediate MS (ES) m/e 658 (M+1). The reaction mixture was poured into ether (30 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated. The crude residue was diluted with CH2Cl2 (2 mL) and then trifluoroacetic acid (1 mL). The mixture was stirred at ambient temperature for 2 h and concentrated under a stream of N2. The crude product was purified by mass-directed reverse phase HPLC to provide the title compound (0.053 g, 71%). 1H NMR (250 MHz, CDCl3) 2.41 (s, 3H), 2.70 (t, J=7.7 Hz, 2H), 2.95-3.05 (m, 4H), 4.28 (t, J=6.6 Hz, 2H), 5.09 (s, 2H), 6.90 (dd, J=8.5, 2.8 Hz, 1H), 7.01 (d, J=2.6 Hz, 1H), 7.06 (d, J=8.6 Hz, 2H), 7.21 (d, J=8.5 Hz, 1H), 7.41-7.72 (m, 9H), 8.07 (d, J=8.4 Hz, 2H). MS (ES) m/e 602 (M+1).

reactant | 3-[4-hydroxy-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester | 0.146 mmol, 0.050 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)COC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3O4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyloxazol-4-yl)ethyl ester | 0.18 mmol, 0.078 g | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | cesium carbonate | 0.22 mmol, 0.072 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ether | 30 mL | CCOCC | C4H10O
product | 3-[4-[2-(2-Biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-2-(4-trifluoromethylphenoxy-methyl)-phenyl]-propionic acid | 0.053 g, 71% | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC(=C(C=C1)CCC(=O)O)COC1=CC=C(C=C1)C(F)(F)F)C)C1=CC=CC=C1 | C35H30F3NO5
